US05244890
To a suspension of 1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)piperazine (800 mg) in dimethyl sulfoxide (8 ml) was added sodium 2-ethylhexanoate (840 mg). The solution was added dropwise a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate trifluoroacetate (syn isomer) (965 mg) in dimethyl sulfoxide (7 ml) at room temperature. After being stirred for 4 hours, the mixture was poured into ethyl acetate (200 ml) and the resulting precipitates were collected by filtration. The precipitates were dissolved in water and then adjusted to pH 3.0 with aqueous sodium bicarbonate. The resulting solution was subjected to column chromatography on Diaion HP-20 using 15% aqueous isopropyl alcohol as an eluent and the objective fraction was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)-1-piperazinio]methyl-3-cephem-4-carboxylate (syn isomer) (380 mg).

reactant | 1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)piperazine | 800 mg | CN1CCN(CC1)C(=O)C1=NC=C(C(=C1)O)O | C11H15N3O3
reactant | sodium 2-ethylhexanoate | 840 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate trifluoroacetate | 965 mg | FC(C(=O)O)(F)F.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O)=NOCC=C
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)-1-piperazinio]methyl-3-cephem-4-carboxylate | 380 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(=O)C2=NC=C(C(=C2)O)O)C)C(=O)[O-])C1=O)=NOCC=C | C26H29N9O8S2
